US04585780
3-Benzyloxy-2-methyl-4-pyrone, prepared as described under Example 10, (20 g) and beta-alanine (9 g) are dissolved in 3:2 v/v water/ethanol (500 ml) containing NaOH (10 g) to provide a solution with a pH of at least 13. The solution is refluxed for 15 minutes whereupon it turns from a light orange to an intense red colour. The solution is acidified to pH 7.0 and the ethanol is removed by rotary evaporation. The resulting aqueous solution is washed twice with ethylacetate (100 ml). This solution is then subjected to rotary evaporation until the volume is reduced to 100 ml and this reduced volume of solution is acidified to pH 3.0 to give a white precipitate, which is filtered off to give 3-benzyloxy-1-(2'-carboxyethyl)-2-methylpyrid-4-one in 70% yield, m.p. 156°-157° C.

reactant | 3-Benzyloxy-2-methyl-4-pyrone | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | beta-alanine | 9 g | NCCC(=O)O | C3H7NO2
reactant | NaOH | 10 g | [OH-].[Na+]
solvent | water ethanol | 500 ml | O.C(C)O
product | 3-benzyloxy-1-(2'-carboxyethyl)-2-methylpyrid-4-one | 70% yield | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCC(=O)O)C | C16H17NO4
